US09376422B2
Step 3: methyl 3-bromo-5-nitrobenzoate
To stirred solution of 5-bromo-2,4-dimethyl-3-nitrobenzoic acid (13 g, 47.44 mmol) in DMF (120 mL), sodium carbonate (15 g, 142.2 mmol) and methyl iodide (4.4 ml, 71.16 mmol) were added. Resulting reaction mass was heated at 60° C. for 8 h. On completion, water was added to the reaction mass and extraction was carried out using ethyl acetate. Combined organic layers were washed with sat. bicarbonate solution and 5 N HCl, dried over sodium sulphate, concentrated under reduced pressure giving desired compound (12.9 g, 86%).

reactant | 5-bromo-2,4-dimethyl-3-nitrobenzoic acid | 47.44 mmol, 13 g | BrC=1C(=C(C(=C(C(=O)O)C1)C)[N+](=O)[O-])C | C9H8BrNO4
reactant | sodium carbonate | 142.2 mmol, 15 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | methyl iodide | 71.16 mmol, 4.4 ml | CI | CH3I
reactant | water | O | H2O
solvent | DMF | 120 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 3-bromo-5-nitrobenzoate | 12.9 g, 86% | BrC=1C=C(C(=O)OC)C=C(C1)[N+](=O)[O-] | C8H6BrNO4
